US07888349B2
The general method described in Part E of Example 4 was used to treat tert-butyl 11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate (30.0 g, 88.6 mmol) with mCPBA (23.8 g of 77% pure material, 138 mmol) to provide tert-butyl 5-oxido-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate. The product was not dried over magnesium sulfate but was dried under high vacuum overnight.

reactant | tert-butyl 11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | 88.6 mmol, 30.0 g | C1=C2C3=C(C=NC2=CC=C1)N=C1N3CCCN(C1)C(=O)OC(C)(C)C | C19H22N4O2
reactant | mCPBA | 138 mmol, 23.8 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | tert-butyl 5-oxido-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | [O-][N+]1=CC2=C(C3=CC=CC=C13)N1C(=N2)CN(CCC1)C(=O)OC(C)(C)C | C19H22N4O3
